### PR TITLE
feat: add Cslib/Foundations/Data/OmegaSequence/*

### PR DESCRIPTION
**Pull request by ctchou**
This is the initial version of ωSequence with reference to:

https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Automata/near/543709917

This PR supercedes https://github.com/leanprover/cslib/pull/80 and https://github.com/leanprover/cslib/pull/86.

I would appreciate feedbacks on which theorems should be labeled with @[simp] and @[grind], especially those involving `extract`, as I am not familiar with how that should be done.

### CODE REVIEW

**Comment by ctchou** [comment]
Removed a bunch of API functions and associated theorems which probably won't be needed.

File: Cslib/Foundations/Data/OmegaSequence/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+
+/-- An `ωSequence α` is an infinite sequence of elements of `α`. -/
+structure ωSequence (α : Type u) where
+  get : ℕ → α
+
+instance : FunLike (ωSequence α) ℕ α where
+  coe s := s.get
+  coe_injective' := by
+    rintro ⟨get1⟩ ⟨get2⟩
+    grind
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Defs.lean]: I find this more readable:
```suggestion
  coe := ωSequence.get
  coe_injective' := by grind [ωSequence, Function.Injective]
```

File: Cslib/Foundations/Data/OmegaSequence/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+def map (f : α → β) (s : ωSequence α) : ωSequence β := fun n => f (s n)
+
+/-- Zip two ω-sequences using a binary operation:
+`ωSequence n (ωSequence.zip f s₁ s₂) = f (ωSequence s₁) (ωSequence s₂)`. -/
+def zip (f : α → β → δ) (s₁ : ωSequence α) (s₂ : ωSequence β) : ωSequence δ :=
+  fun n => f (s₁ n) (s₂ n)
+
+/-- Iterates of a function as an ω-sequence. -/
+def iterate (f : α → α) (a : α) : ωSequence α := iterate' f a
+where iterate' (f : α → α) (a : α) : ℕ → α
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Defs.lean]: Maybe it would be best to move the `where` to a separate `Function.iterate`? Then I think the theorem below would just be equality with that by `rfl`. It seems awkward to have a theorem about equality to a match.

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 3]
```diff
@@ -0,0 +1,530 @@
...
+
+end Bisim
+
+theorem bisim_simple (s₁ s₂ : ωSequence α) :
+    head s₁ = head s₂ → s₁ = tail s₁ → s₂ = tail s₂ → s₁ = s₂ := fun hh ht₁ ht₂ =>
+  eq_of_bisim (fun s₁ s₂ => head s₁ = head s₂ ∧ s₁ = tail s₁ ∧ s₂ = tail s₂)
+    (fun s₁ s₂ ⟨h₁, h₂, h₃⟩ => by rw [← h₂, ← h₃] ; grind)
+    (And.intro hh (And.intro ht₁ ht₂))
+
+theorem coinduction {s₁ s₂ : ωSequence α} :
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: If `ωSequence` is not meant to be emulating a coinductive type, do we need to port this from `Stream'`? Or is it useful in some other way?

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 4]
```diff
@@ -0,0 +1,530 @@
...
+    (h : xs.extract m n = xs'.extract m' n') :
+    n - m = n' - m' ∧ ∀ k < n - m, xs (m + k) = xs' (m' + k) := by
+  simp only [extract_eq_ofFn, List.ofFn_inj', Sigma.mk.injEq] at h
+  obtain ⟨h_eq, h_fun⟩ := h
+  rw [← h_eq] at h_fun ; simp only [heq_eq_eq, funext_iff, Fin.forall_iff] at h_fun
+  simp only [← h_eq, true_and] ; intro k h_k ; simp only [h_fun k h_k]
+
+theorem extract_eq_take {xs : ωSequence α} {n : ℕ} :
+    xs.extract 0 n = xs.take n := by
+  simp only [extract_eq_drop_take, Nat.sub_zero, drop_zero]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: Mathlib style is to not "squeeze terminal simps" i.e at the end of a proof not use only. Can you please remove all of these and minimize the the theorems specified in the [...]? This is considered to make these proofs a bit less fragile.

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 5]
```diff
@@ -0,0 +1,530 @@
...
+    <;> simp (disch := omega) [extract_eq_drop_take, getElem?_take, get_drop]
+    <;> aesop
+
+theorem extract_eq_extract {xs xs' : ωSequence α} {m n m' n' : ℕ}
+    (h : xs.extract m n = xs'.extract m' n') :
+    n - m = n' - m' ∧ ∀ k < n - m, xs (m + k) = xs' (m' + k) := by
+  simp only [extract_eq_ofFn, List.ofFn_inj', Sigma.mk.injEq] at h
+  obtain ⟨h_eq, h_fun⟩ := h
+  rw [← h_eq] at h_fun ; simp only [heq_eq_eq, funext_iff, Fin.forall_iff] at h_fun
+  simp only [← h_eq, true_and] ; intro k h_k ; simp only [h_fun k h_k]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: The `HEq` here is a pain, this is the most I could simplify:
```suggestion
  rw [← h_eq] at h_fun
  simp_all [funext_iff, Fin.forall_iff]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean (hunk 4 above)
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  simp [extract_eq_drop_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 6]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_eq_take {xs : ωSequence α} {n : ℕ} :
+    xs.extract 0 n = xs.take n := by
+  simp only [extract_eq_drop_take, Nat.sub_zero, drop_zero]
+
+theorem append_extract_drop {xs : ωSequence α} {n : ℕ} :
+    (xs.extract 0 n) ++ω (xs.drop n) = xs := by
+  simp only [extract_eq_take, append_take_drop]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  simp [extract_eq_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 7]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_apppend_right_right {xl : List α} {xs : ωSequence α} {m n : ℕ} (h : xl.length ≤ m) :
+    (xl ++ω xs).extract m n = xs.extract (m - xl.length) (n - xl.length) := by
+  have h1 : n - xl.length - (m - xl.length) = n - m := by omega
+  simp (disch := omega) only [extract_eq_drop_take, drop_append_of_ge_length, h1]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  grind [extract_eq_drop_take, drop_append_of_ge_length]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 8]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_append_zero_right {xl : List α} {xs : ωSequence α} {n : ℕ} (h : xl.length ≤ n) :
+    (xl ++ω xs).extract 0 n = xl ++ (xs.extract 0 (n - xl.length)) := by
+  obtain ⟨k, rfl⟩ := show ∃ k, n = xl.length + k by use (n - xl.length) ; omega
+  simp only [extract_eq_take, ← append_take, Nat.add_sub_cancel_left]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  obtain ⟨k, rfl⟩ : ∃ k, n = xl.length + k := ⟨n - xl.length, by omega⟩
  simp [extract_eq_take, append_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 9]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_drop {xs : ωSequence α} {k m n : ℕ} :
+    (xs.drop k).extract m n = xs.extract (k + m) (k + n) := by
+  have h1 : k + n - (k + m) = n - m := by omega
+  simp only [extract_eq_drop_take, drop_drop, h1]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  grind [extract_eq_drop_take, drop_drop]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 10]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem length_extract {xs : ωSequence α} {m n : ℕ} :
+    (xs.extract m n).length = n - m := by
+  simp only [extract_eq_drop_take, length_take]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  simp [extract_eq_drop_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 11]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_eq_nil {xs : ωSequence α} {n : ℕ} :
+    xs.extract n n = [] := by
+  simp only [extract_eq_drop_take, Nat.sub_self, take_zero]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  simp [extract_eq_drop_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 12]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_eq_nil_iff {xs : ωSequence α} {m n : ℕ} :
+    xs.extract m n = [] ↔ m ≥ n := by
+  simp only [extract_eq_drop_take, ← List.length_eq_zero_iff, length_take, ge_iff_le]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: Not sure if there's a rule that works for the first rewrite.
```suggestion
  rw [← List.length_eq_zero_iff]
  grind [extract_eq_drop_take, length_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 13]
```diff
@@ -0,0 +1,530 @@
...
+  omega
+
+theorem get_extract {xs : ωSequence α} {m n k : ℕ} (h : k < n - m) :
+    (xs.extract m n)[k]'(by simp only [length_extract, h]) = xs (m + k) := by
+  simp only [extract_eq_drop_take, take_get, get_drop]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  simp [extract_eq_drop_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 14]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem append_extract_extract {xs : ωSequence α} {k m n : ℕ} (h_km : k ≤ m) (h_mn : m ≤ n) :
+    (xs.extract k m) ++ (xs.extract m n) = xs.extract k n := by
+  have h1 : n - k = (m - k) + (n - m) := by omega
+  have h2 : k + (m - k) = m := by omega
+  simp only [extract_eq_drop_take, h1, take_add, drop_drop, h2]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  have : n - k = (m - k) + (n - m) := by grind
  grind [extract_eq_drop_take, take_add, drop_drop]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 15]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_succ_right {xs : ωSequence α} {m n : ℕ} (h_mn : m ≤ n) :
+    xs.extract m (n + 1) = xs.extract m n ++ [xs n] := by
+  rw [← append_extract_extract h_mn (show n ≤ n + 1 by omega)] ; congr
+  simp only [extract_eq_drop_take, Nat.add_sub_cancel_left, take_one, get_drop, Nat.add_zero]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  rw [← append_extract_extract h_mn] <;>
  grind [extract_eq_drop_take, take_one, get_drop, add_tsub_cancel_left]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 16]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_extract2' {xs : ωSequence α} {m n i j : ℕ} (h : j ≤ n - m) :
+    (xs.extract m n).extract i j = xs.extract (m + i) (m + j) := by
+  ext k x ; rcases (show k < j - i ∨ ¬ k < j - i by omega) with h_k | h_k
+    <;> simp [extract_eq_ofFn, h_k]
+  · simp [(show i + k < n - m by omega), (show k < m + j - (m + i) by omega), Nat.add_assoc]
+  · simp only [(show ¬k < m + j - (m + i) by omega), IsEmpty.forall_iff]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  ext k
  cases Decidable.em (k < j - i) <;> grind [extract_eq_ofFn]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 17]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_extract2 {xs : ωSequence α} {n i j : ℕ} (h : j ≤ n) :
+    (xs.extract 0 n).extract i j = xs.extract i j := by
+  simp only [extract_extract2' (show j ≤ n - 0 by omega), Nat.zero_add]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  grind [extract_extract2']
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 18]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_extract1 {xs : ωSequence α} {n i : ℕ} :
+    (xs.extract 0 n).extract i = xs.extract i n := by
+  simp only [length_extract, extract_extract2 (show n ≤ n by omega), Nat.sub_zero]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  grind [extract_extract2, length_extract]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 19]
```diff
@@ -0,0 +1,530 @@
...
+
+theorem extract_eq_drop_take {xs : ωSequence α} {m n : ℕ} :
+    xs.extract m n = take (n - m) (xs.drop m) := by
+  rfl
+
+theorem extract_eq_ofFn {xs : ωSequence α} {m n : ℕ} :
+    xs.extract m n = List.ofFn (fun k : Fin (n - m) ↦ xs (m + k)) := by
+  ext k x ; rcases (show k < n - m ∨ ¬ k < n - m by omega) with h_k | h_k
+    <;> simp (disch := omega) [extract_eq_drop_take, getElem?_take, get_drop]
+    <;> aesop
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]:
```suggestion
  ext k
  cases Decidable.em (k < n - m) <;>
  grind [extract_eq_drop_take, getElem?_take, get_drop, length_take]
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 20]
```diff
@@ -0,0 +1,530 @@
...
+  have h1 : n - k = (m - k) + (n - m) := by omega
+  have h2 : k + (m - k) = m := by omega
+  simp only [extract_eq_drop_take, h1, take_add, drop_drop, h2]
+
+theorem extract_succ_right {xs : ωSequence α} {m n : ℕ} (h_mn : m ≤ n) :
+    xs.extract m (n + 1) = xs.extract m n ++ [xs n] := by
+  rw [← append_extract_extract h_mn (show n ≤ n + 1 by omega)] ; congr
+  simp only [extract_eq_drop_take, Nat.add_sub_cancel_left, take_one, get_drop, Nat.add_zero]
+
+theorem extract_extract2' {xs : ωSequence α} {m n i j : ℕ} (h : j ≤ n - m) :
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: The names of these last theorems could be better, at minimum replacing the prime and maybe using subscripts for the numbers if there isn't a more descriptive name.

File: Cslib/Foundations/Data/OmegaSequence/Init.lean (hunk 4 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/OmegaSequence/Init.lean]: (I ended up leaving exact suggestions for all of these, hopefully that makes it easier. As a reminder, you can commit suggestions from the UI here)

**Comment by ctchou** [comment]
I have incorporated @chenson2018's comments and marked some theorems with `@[simp]`.

Note that I did not mark the theorem `extract_eq_drop_take` with `@[simp]`.  Doing so would have unraveled `extract` into its definition in terms of `drop` and `take` in every `simp`.  This was actually done in `List`, which I found very annoying in my automata theory project.  I would prefer to use `extract` independently of, and typically in place of, `drop` and `take`, in the code that uses OmegaSequence.

**Comment by ctchou** [comment]
Rebase on the current "main".

File: Cslib/Foundations/Data/OmegaSequence/Defs.lean [hunk 21]
```diff
@@ -0,0 +1,86 @@
+/-
+Copyright (c) 2025-present Ching-Tsun Chou All rights reserved.
```
Comment (fmontesi) [inline Cslib/Foundations/Data/OmegaSequence/Defs.lean]: This line of various file headers looks slightly different from the rest of the codebase, I think it's a full stop and the addition of 'all rights reserved'.

File: Cslib/Foundations/Data/OmegaSequence/Defs.lean [hunk 22]
```diff
@@ -0,0 +1,86 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ching-Tsun Chou, Fabrizio Montes
```
Comment (fmontesi) [inline Cslib/Foundations/Data/OmegaSequence/Defs.lean]: Montesi

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 23]
```diff
@@ -0,0 +1,535 @@
...
+
+@[ext]
+protected theorem ext {s₁ s₂ : ωSequence α} : (∀ n, s₁ n = s₂ n) → s₁ = s₂ := by
+  apply DFunLike.ext
+
+@[simp]
+theorem get_zero_cons (a : α) (s : ωSequence α) : (a ::ω s) 0 = a :=
+  rfl
+
+@[simp]
```
Comment (fmontesi) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: Theorems establishing equalities (like this one) should be marked `@[scoped grind =]`.

@chenson2018 It appears to me that basically almost anything that makes sense to annotate with `simp` should also have a `scoped grind =`. Do you agree?

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 24]
```diff
@@ -0,0 +1,535 @@
...
+section Bisim
+
+variable (R : ωSequence α → ωSequence α → Prop)
+
+/-- equivalence relation -/
+local infixl:50 " ~ " => R
+
+/-- ω-sequences `s₁` and `s₂` are defined to be bisimulations if
+their heads are equal and tails are bisimulations. -/
+def IsBisimulation :=
```
Comment (fmontesi) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: Bisimulation here seems to be just equality. What's the use for it?

File: Cslib/Foundations/Data/OmegaSequence/Init.lean (hunk 23 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/OmegaSequence/Init.lean]: Yes, this is a good rule of thumb.

**Comment by ctchou** [comment]
I have incorporated @fmontesi's comments and pushed a new commit.

**Comment by fmontesi** [comment]
@chenson2018 is this ok to merge now? Your review still appears as 'requested changes'.

**Comment by ctchou** [comment]
I thought I've incorporated all of @chenson2018's comments.

**Comment by chenson2018** [comment]
Yes, you're good to merge. I just forgot to hit approve with all the release work!
